US07691836B2
n-Butyllithium (2.76 mL, 6.9 mmol, 2.5 M in hexane) was added dropwise to a cooled (0° C.) solution of diisopropylamine (0.97 mL, 6.9 mmol) in tetrahydrofuran (2 mL) under a nitrogen atmosphere. After stirring for 30 minutes the reaction mixture was cooled to −78° C. and a solution of pyridazine (452 μL, 6.3 mmol) and tributyltin chloride (1.9 mL, 6.9 mmol) were added simultaneously while the temperature was kept below −70° C. The reaction mixture was stirred for 2 hours at −78° C.; subsequently, a saturated aqueous NH4Cl solution was added and the reaction mixture was extracted three times with ethyl acetate. The combined organic layers were dried (MgSO4) and evaporated to dryness. The crude product was purified by LCMS to give tributylstannylpyridazine (197 mg, 0.53 mmol, 8% yield). This stannylpyridazine (183 mg, 0.49 mmol), (11β,16α,17β)-11-(4-bromophenyl)-17-cyclopropylcarbonyl-16-methylestra-4,9-dien-3-one (100 mg, 0.20 mmol) and bis(triphenylphosphine)palladium(II) chloride (3 mg, 0.004 mmol) were dissolved in dioxane (3 mL) under a nitrogen atmosphere. The reaction mixture was stirred overnight at 110° C. and then cooled to room temperature. Water was added and the mixture was extracted three times with dichloromethane. The combined organic layers were dried through a phase separate filter and evaporated to dryness. Purification by LCMS followed by lyophilisation gave (11β,16α,17β)-17-cyclopropylcarbonyl-16-methyl-11-[4-(4-pyridazinyl)phenyl]estra-4,9-dien-3-one (78 mg, 0.16 mmol, 79% yield). 1H NMR (400 MHz, CDCl3): δ 0.33 (s, 3H), 0.85-2.84 (m, 26H), 4.48 (d, J=7 Hz, 1H), 5.81 (s, 1H), 7.33-7.37 (m, 2H), 7.60-7.64 (m, 3H), 9.21 (dd, J=5 and 1 Hz, 1H), 9.46 (dd, J=3 and 1 Hz, 1H).

reactant | n-Butyllithium | 6.9 mmol, 2.5 M, 2.76 mL | C(CCC)[Li]
reactant | diisopropylamine | 6.9 mmol, 0.97 mL | C(C)(C)NC(C)C | C6H15N
reactant | pyridazine | 6.3 mmol, 452 μL | N1=NC=CC=C1 | C4H4N2
reactant | tributyltin chloride | 6.9 mmol, 1.9 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | tributylstannylpyridazine | 0.53 mmol, 197 mg, 8% yield | C(CCC)[Sn](CCCC)(CCCC)C=1N=NC=CC1 | InChI=1S/C4H3N2.3C4H9.Sn/c1-2-4-6-5-3-1;3*1-3-4-2;/h1-3H;3*1,3-4H2,2H3;
